US09023842B2
Intermediate 7: [2-amino-5-(methyloxy)phenyl](4-chlorophenyl)methanone
To a solution of 2-methyl-6-(methyloxy)-4H-3,1-benzoxazin-4-one (for a preparation see Intermediate 8) (40.0 g, 0.21 mol) in a toluene (560 mL)/ether (200 mL) mixture at 0° C. was added dropwise a solution of 4-chlorophenylmagnesium bromide (170 mL, 1M in Et2O, 0.17 mol). The reaction mixture was allowed to warm to RT and stirred for 1 h before being quenched with 1N HCl. The aqueous layer was extracted with EtOAc (3×) and the combined organics were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude compound was then dissolved in EtOH (400 mL) and 6N HCl (160 mL) was added. The reaction mixture was refluxed for 2 h before being concentrated under reduced pressure. The resulting solid was filtered and washed twice with ether before being suspended in EtOAc and neutralised with 1N NaOH. The aqueous layer was extracted with EtOAc (3×) and the combined organics were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The title compound was obtained as a yellow solid (39 g, 88% yield) which was used without further purification.

reactant | 2-methyl-6-(methyloxy)-4H-3,1-benzoxazin-4-one | CC1=NC2=C(C(O1)=O)C=C(C=C2)OC | C10H9NO3
reactant | toluene | 560 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-chlorophenylmagnesium bromide | 0.17 mol, 1M, 170 mL | ClC1=CC=C(C=C1)[Mg]Br
solvent | ether | 200 mL | CCOCC | C4H10O
product | [2-amino-5-(methyloxy)phenyl](4-chlorophenyl)methanone | NC1=C(C=C(C=C1)OC)C(=O)C1=CC=C(C=C1)Cl | C14H12ClNO2
